US06074708
First, 127 parts of carbon disulfide, 15.3 parts of 4-(trans-4-pentylcyclohexyl)biphenyl (produced by Kanto Kagaku Kabushiki Kaisha), and 8.4 parts of anhydrous aluminum chloride are mixed together. While cooling the mixture with iced water, 8.1 parts of cyclohexane carbonyl chloride is dropped to the mixture at 5° C. or less. After the resultant mixture is stirred at 5° C. or less for 2 hours and then at 15° C. to 20° C. for another 2 hours, the reaction mixture is put into 100 parts of iced water and decomposed. Then, the carbon disulfide layer is separated and washed with water 3 times. Then, carbon disulfide is distilled off. Thus, crude 1-(trans-4-pentylcyclohexyl)-4-cyclohexyl carbonyl biphenyl is obtained.

reactant | carbon disulfide | C(=S)=S | CS2
reactant | 4-(trans-4-pentylcyclohexyl)biphenyl | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=CC=C1 | C23H30
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | cyclohexane carbonyl chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | water | O | H2O
product | 1-(trans-4-pentylcyclohexyl)-4-cyclohexyl carbonyl biphenyl | C(CCCC)[C@@H]1CC[C@H](CC1)C1(C(C=C(C=C1)C1CCCCC1)=C=O)C1=CC=CC=C1 | C30H40O
